US05688946
A mixture of 350 mg (0.83 mmol) of 3-[(benzyloxy)carbonyl]-N-[2-(1-tert-butoxyformamido)ethyl]-L-alanine tert-butyl ester, 10 mg (0.08 mmol) of dimethylaminopyridine, 1 ml (7.2 mmol) of triethylamine and 200 mg (0.9 mmol) of di-tert-butyl dicarbonate in 5 ml of acetonitrile is stirred at room temperature for 2 hours. Subsequently, the solvent is distilled off and the residue is taken up in ether. The ether solution is washed in succession with saturated sodium bicarbonate solution, water, 1M tartaric acid solution and water, dried over sodium sulphate and evaporated. For purification, the residue is chromatographed on silica gel using a 7:3 mixture of cyclohexane and ethyl acetate as the eluent. 3-[(Benzyloxy)carbonyl]-N-[(tert-butoxy)carbonyl]-N-[2-(1-tert-butoxyformamido)ethyl]-L-alanine tert-butyl ester is obtained as a viscous oil, MS: 523 (M+H)+.

reactant | 3-[(benzyloxy)carbonyl]-N-[2-(1-tert-butoxyformamido)ethyl]-L-alanine tert-butyl ester | 0.83 mmol, 350 mg | C(C)(C)(C)OC([C@@H](NCCNC(=O)OC(C)(C)C)CC(=O)OCC1=CC=CC=C1)=O | C22H34N2O6
reactant | dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 7.2 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.9 mmol, 200 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-[(Benzyloxy)carbonyl]-N-[(tert-butoxy)carbonyl]-N-[2-(1-tert-butoxyformamido)ethyl]-L-alanine tert-butyl ester | C(C)(C)(C)OC([C@@H](N(CCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC(=O)OCC1=CC=CC=C1)=O | C27H42N2O8
